US05614544
(5-Methyl-2-phenyl-4-oxazolylmethyl)triphenylphosphonium chloride and methyl 4-formylbenzoate were reacted in the same manner as in Reference Example 10 to yield methyl (E)-4-[2-(5-methyl-2-phenyl-4-oxazolyl)vinyl]benzoate, which was then recrystallized from ethyl acetate to yield colorless prisms having a melting point of 164°-165° C.

reactant | (5-Methyl-2-phenyl-4-oxazolylmethyl)triphenylphosphonium chloride | [Cl-].CC1=C(N=C(O1)C1=CC=CC=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | methyl 4-formylbenzoate | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
product | methyl (E)-4-[2-(5-methyl-2-phenyl-4-oxazolyl)vinyl]benzoate | CC1=C(N=C(O1)C1=CC=CC=C1)/C=C/C1=CC=C(C(=O)OC)C=C1 | C20H17NO3
